US05409943
(a) 2-Amino-3-(2,6-dichlorobenzyloxy)pyridine
A mixture of 2,6-dichlorobenzyl bromide (50 g, 0.209 mol) and 2-amino-3hydroxypyridine (20.9 g, 0.19 mol) in 40% aqueous sodium hydroxide solution (200 ml) and dichloromethane (200 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. A further 200 ml of water was added and the product extracted into dichloromethane, dried, and the solvent evaporated to yield a solid (43.1 g, 76%), m.p. 141°-142° C.

reactant | 2,6-dichlorobenzyl bromide | 0.209 mol, 50 g | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
reactant | 2-amino-3hydroxypyridine | 0.19 mol, 20.9 g | NC1=NC=CC=C1O | C5H6N2O
reactant | water | 200 ml | O | H2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2,6-dichlorobenzyloxy)pyridine | 43.1 g, 76% | NC1=NC=CC=C1OCC1=C(C=CC=C1Cl)Cl | C12H10Cl2N2O
